US07307167B2
9-Acetyl-2-amino-6-chloropurine (0.50 g, 2.36 mmol), dichlorodimethylsilane (1.01 g, 7.80 mmol), tetraethylammonium chloride (0.025 g, 0.15 mmol) and isoamyl nitrite (0.42 g, 3.54 mmol) were added to heptane (4 ml), and the mixture was heated to 50-60° C. and stirred for 14 hr. After the completion of the reaction, the mixture was filtrated. The obtained crystals were diluted with water (4.0 ml), and the mixture was adjusted to pH 4-5 with a 2M aqueous sodium hydroxide solution. After aging under ice-cooling for 1 hr, the mixture was filtrated, and the obtained crystals were dried under reduced pressure at 80° C. to give a white powder (0.31 g, yield 73.8%) of 2,6-dichloropurine.

reactant | 9-Acetyl-2-amino-6-chloropurine | 2.36 mmol, 0.50 g | C(C)(=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C7H6ClN5O
reactant | dichlorodimethylsilane | 7.80 mmol, 1.01 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | isoamyl nitrite | 3.54 mmol, 0.42 g | N(=O)OCCC(C)C | C5H11NO2
catalyst | tetraethylammonium chloride | 0.15 mmol, 0.025 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | heptane | 4 ml | CCCCCCC | C7H16
product | 2,6-dichloropurine | 0.31 g, yield 73.8% | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
